US04252802
(b) 2-(Aminooxy)-N-(phenylmethoxy)acetamide, hydrochloride
5.0 g of [(1.3-dihydro-1,3-dioxo-2H-isoindole-2-yl)oxy]-N-(phenylmethoxy) acetamide is suspended in 100 ml anhydrous methanol. While stirring and maintaining the temperature at 0° C., 0.54 g hydrazine in 10 ml. methanol is added. Stirring is continued at 0° C. for 12 hours. After this time an equivalent amount of hydrochloric acid in methanol is added, the insoluble precipitate is filtered off and the mother liquor evaporated in vacuo. The residue is dissolved in a small amount of methanol, filtered and evaporated. The only residue is now treated with 100 ml of diethyl ether. 3.4 g of 2-(Aminooxy)-N-(phenylmethoxy)acetamide, hydrochloride having a melting point of 173° C. to 175° C. is filtered off.

reactant | [(1.3-dihydro-1,3-dioxo-2H-isoindole-2-yl)oxy]-N-(phenylmethoxy) acetamide | 5.0 g | O=C1N(C(C2=CC=CC=C12)=O)OCC(=O)NOCC1=CC=CC=C1 | C17H14N2O5
reactant | hydrazine | 0.54 g | NN | H4N2
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 100 ml | CO | CH4O
product | 2-(Aminooxy)-N-(phenylmethoxy)acetamide, hydrochloride | Cl.NOCC(=O)NOCC1=CC=CC=C1 | InChI=1S/C9H12N2O3.ClH/c10-13-7-9(12)11-14-6-8-4-2-1-3-5-8;/h1-5H,6-7,10H2,(H,11,12);1H
